US05025031
3-(1H-Imidazol-1-yl)phenol
Imidazole (34 g, 0.5 mole), m-bromoanisole (51 ml, 0.4 mole), potassium carbonate (52 g), and cuprous chloride (2.4 g) in 300 ml N-methyl-2-pyrrolidone was heated at reflux for 4 hours. The cooled mixture was diluted with water and 100 ml concentrated ammonium hydroxide. The product was extracted into toluene-ethyl acetate (several times until TLC of aqueous layer showed only a trace amount of product). All the organic extracts were combined, filtered, extracted once with water and then three times with a total of 300 ml 48% hydrobromic acid. The hydrobromic acid extracts were combined and heated at reflux for 6 hours and then concentrated. The residue was redissolved in water and basified first with sodium hydroxide and at the end with sodium bicarbonate to get a final pH of 8. Some isopropyl ether was added to cause the product to crystallize. The solid was collected by filtration, washed with water, and dried at 80° C. in a vacuum oven to obtain 50.9 g (79.5% yield). A small portion of this solid was dissolved in absolute ethanol, filtered, concentrated, and recrystallized. The recrystallized material melted at 169°-170° C.

reactant | Imidazole | 0.5 mole, 34 g | N1C=NC=C1 | C3H4N2
reactant | m-bromoanisole | 0.4 mole, 51 ml | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | potassium carbonate | 52 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | N-methyl-2-pyrrolidone | 300 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
solvent | ammonium hydroxide | 100 ml | [OH-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 3-(1H-Imidazol-1-yl)phenol | N1(C=NC=C1)C=1C=C(C=CC1)O | C9H8N2O
